US08835644B2
tert-Butyl allylcarbamate (113 mg, 0.72 mmol) and THF (1.5 mL) were charged into a flame-dried round bottom flask followed by the dropwise addition of 0.5M 9-BBN in THF (1.92 mL). After 2 h, 2M Cs2CO3 (0.72 mL), methyl 2-iodobenzoate (0.07 mL, 0.48 mmol) and Pd(dppf)Cl2 (27.7 mg, 5 mol %) were added to the flask and held at room temperature. Once judged complete my TLC (˜24 h), the crude mixture was diluted with EtOAc (30 mL) and washed with sat. NH4Cl (2×20 mL) and brine (2×20 mL) then dried (MgSO4) followed by filtration and evaporation to dryness. The resulting residue was purified by gradient flash column chromatography (5-30% EtOAc/hexanes) to obtain methyl 2-(3-(tert-butoxycarbonylamino)propyl)benzoate (130 mg, 93%) as an amber oil. 1H NMR (500 MHz, DMSO-d6) δ 7.76 (dd, J=7.8, 1.1 Hz, 1H), 7.49 (td, J=7.5, 1.4 Hz, 1H), 7.34-7.28 (m, 2H), 6.85 (t, J=5.4 Hz, 1H), 3.82 (s, 3H), 2.93 (q, J=6.7 Hz, 2H), 2.86-2.79 (m, 2H), 1.65-1.58 (m, 2H), 1.37 (s, 9H); 13C NMR (125 MHz, DMSO-d6) δ 167.5, 155.57, 143.0, 132.0, 130.9, 130.1, 129.4, 126.1, 77.4, 52.0, 39.8, 31.6, 31.0, 28.3; HRMS (ESI) calcd for [C16H23NO4+Na]+316.1519. found 316.1152. Method D with methyl 2-(3-(tert-butoxycarbonylamino)propyl)benzoate (130 mg, 0.45 mmol) afforded 2-(3-(tert-butoxycarbonylamino)propyl)benzoic acid (120 mg, 96%) as a white solid. 1H NMR (500 MHz, DMSO-d6) δ 12.82 (bs, 1H), 7.77 (dd, J=7.7, 1.1 Hz, 1H), 7.45 (td, J=7.5, 1.3 Hz, 1H), 7.33-7.24 (m, 2H), 6.81 (t, J=5.3 Hz, 1H), 3.00-2.83 (m, 4H), 1.78-1.53 (m, 2H), 1.37 (s, 9H); 13C NMR (125 MHz, DMSO-d6) δ 168.8, 155.6, 142.9, 131.6, 130.8, 130.5, 130.2, 125.9, 77.4, 31.5, 30.9, 28.3; HRMS (ESI) calcd for [C15H21NO4+Na]+ 302.1363. found 302.1359. Method B with 2-(3-(tert-butoxycarbonylamino)propyl)benzoic acid (95 mg, 0.34 mmol) and cat. DMAP at 55° C. afforded tert-butyl 3-(2-(5-nitrothiazol-2-ylcarbamoyl)phenyl)propylcarbamate (58 mg, 42%) as a light yellow solid. 1H NMR (500 MHz, DMSO-d6) δ 13.54 (bs, 1H), 8.69 (s, 1H), 7.60 (d, J=7.6 Hz, 1H), 7.51 (t, J=7.6 Hz, 1H), 7.43-7.32 (m, 2H), 6.81 (t, J=5.5 Hz, 1H), 2.91 (q, J=6.5 Hz, 2H), 2.79-2.67 (m, 2H), 1.74-1.40 (m, 2H), 1.34 (s, 9H); 13C NMR (125 MHz, DMSO-d6) δ 168.7, 162.0, 155.5, 142.6, 142.0, 141.2, 132.3, 131.5, 130.2, 128.5, 125.9, 77.3, 39.6, 31.5, 30.0, 28.2; HRMS (ESI) calcd for [C18H22N4O5S+Na]+ 429.1203. found 429.1201. Method E with tert-butyl 3-(2-(5-nitrothiazol-2-ylcarbamoyl)phenyl)propylcarbamate (310 mg, 0.76 mmol) afforded the title compound VPC162134 (257 mg, 98%) as a beige solid. 1H NMR (500 MHz, DMSO-d6) δ 13.60 (s, 1H), 8.71 (s, 1H), 8.05 (bs, 3H), 7.65 (d, J=7.7 Hz, 1H), 7.55 (t, J=7.6 Hz, 1H), 7.47-7.35 (m, 2H), 2.81 (t, J=7.5 Hz, 2H), 2.79-2.71 (m, 2H), 1.87 (quint., J=7.5 Hz, 2H); 13C NMR (125 MHz, DMSO-d6) δ 168.6, 162.1, 142.7, 142.0, 140.3, 132.2, 131.7, 130.2, 128.8, 126.3, 38.4, 29.6, 28.9; HRMS (ESI) calcd for [C13H14N4O3S+H]+ 307.0859. found 307.0855.

reactant | tert-Butyl allylcarbamate | 0.72 mmol, 113 mg | C(C=C)NC(OC(C)(C)C)=O | C8H15NO2
reactant | 9-BBN | 0.5M | B1C2CCCC1CCC2 | C8H15B
reactant | Cs2CO3 | 2M, 0.72 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | methyl 2-iodobenzoate | 0.48 mmol, 0.07 mL | IC1=C(C(=O)OC)C=CC=C1 | C8H7IO2
solvent | THF | 1.92 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 27.7 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | methyl 2-(3-(tert-butoxycarbonylamino)propyl)benzoate | 130 mg, 93% | C(C)(C)(C)OC(=O)NCCCC1=C(C(=O)OC)C=CC=C1 | C16H23NO4
